* E:\IC_TL560C\IC_TL560C.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/15/25 13:16:39

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  IN Net-_R1-Pad1_ GND ? OUT TL560		
R1  Net-_R1-Pad1_ IN 100k		
R2  IN GND 500k		
R3  Net-_R1-Pad1_ OUT 10k		
v2  Net-_R1-Pad1_ GND DC		
v1  Net-_C1-Pad2_ GND sine		
U2  OUT plot_v1		
U1  IN plot_v1		
C1  IN Net-_C1-Pad2_ 0.047u		

.end
